US06221902B1
3-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxysulfonyl]-benzoic acid
The title compound was prepared from of 4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-ol and 3-chlorosulfonyl-benzoic acid, in substantially the same manner, as described in Example 1 step g, and was obtained as a white solid, mp 169-171° C.; MS m/e 559 (M-H)+;

reactant | 4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O)C=CC=C2 | C27H20O2
reactant | 3-chlorosulfonyl-benzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
product | 3-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxysulfonyl]-benzoic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)OS(=O)(=O)C=1C=C(C(=O)O)C=CC1)C=CC=C2 | C34H24O6S
